US04459150
The phenylhydrazine used as starting material in Reference Example 10 was prepared by proceeding in a similar manner to that hereinbefore described in Reference Example 5 but replacing the 2-chloro-4-ethylaniline by 2,6-dichloro-4-ethylaniline. 2,6-Dichloro-4-ethylphenylhydrazine, m.p. 48°-50° C., was obtained in the form of a cream-coloured solid.

reactant | phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
reactant | 2,6-dichloro-4-ethylaniline | ClC1=C(N)C(=CC(=C1)CC)Cl | C8H9Cl2N
product | 2,6-Dichloro-4-ethylphenylhydrazine | ClC1=C(C(=CC(=C1)CC)Cl)NN | C8H10Cl2N2
